US05175157
2-[2-(N-(3-(3,4-Methylenedioxy-phenoxy)-propyl)-piperidin-3-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[(piperidin-3-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-(3,6-methylenedioxy-phenoxy)-propane analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C18H26N2O3
reactant | 1-chloro-3-(3,6-methylenedioxy-phenoxy)-propane | ClCCCOC1=CC2=CC=C1OCO2 | C10H11ClO3
product | 2-[2-(N-(3-(3,4-Methylenedioxy-phenoxy)-propyl)-piperidin-3-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.C1OC=2C=C(OCCCN3CC(CCC3)CCN3C(C4=CC(=C(C=C4CC3)OC)OC)=O)C=CC2O1 | InChI=1S/C28H36N2O6.ClH/c1-32-25-15-21-9-13-30(28(31)23(21)17-26(25)33-2)12-8-20-5-3-10-29(18-20)11-4-14-34-22-6-7-24-27(16-22)36-19-35-24;/h6-7,15-17,20H,3-5,8-14,18-19H2,1-2H3;1H
